US08293768B2
Synthesis of 5-(3-(2-hydroxy-2-phenylethyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide
To a stirred solution of 3-methyl-5-(2-oxo-3-(2-oxo-2-phenylethyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide (0.09 g, 0.20 mmol) in methanol (3 mL) and chloroform (1.5 mL) at 0° C. was added sodium borohydride (0.01 g, 0.29 mmol) under nitrogen atmosphere. The resulting mixture was stirred at 0° C. for 1 h, and then quenched with water (25 mL). The aqueous layer was extracted with dichloromethane (2×50 mL), and the combined organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with dichloromethane in hexanes to afford the title compound as a brownish solid in 92% yield (0.08 g): mp 75° C. (dec.); 1H NMR (300 MHz, CDCl3) δ 8.52 (s, 1H), 8.43 (s, 1H), 7.65 (d, J=7.8 Hz, 1H), 7.39-7.17 (m, 6H), 6.37 (t, J=5.5 Hz, 1H), 5.98 (s, 1H), 4.94 (dd, J=7.7, 3.3 Hz, 1H), 4.52 (d, J=5.5 Hz, 2H), 3.87 (br s, 1H), 3.75-3.35 (m, 6H), 2.43 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 163.6, 156.6, 149.0, 148.5, 142.4, 141.7, 141.6, 135.6, 134.3, 128.5, 127.9, 125.8, 123.6, 119.0, 112.4, 72.8, 52.3, 43.8, 43.1, 41.1, 16.1; MS (ES+) m/z 437.4 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-oxo-2-phenylethyl)imidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide | 0.20 mmol, 0.09 g | CC1=C(SC(=C1)N1C(N(CC1)CC(C1=CC=CC=C1)=O)=O)C(=O)NCC=1C=NC=CC1 | C23H22N4O3S
reactant | sodium borohydride | 0.29 mmol, 0.01 g | [BH4-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
solvent | chloroform | 1.5 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(3-(2-hydroxy-2-phenylethyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-(pyridin-3-ylmethyl)thiophene-2-carboxamide | 92% yield | OC(CN1C(N(CC1)C1=CC(=C(S1)C(=O)NCC=1C=NC=CC1)C)=O)C1=CC=CC=C1 | C23H24N4O3S
